US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-hydroxyphenyl)carboxamide [83]
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-acetoxyphenyl)carboxamide (103 mg) was dissolved in methanol (4 ml), 35% aqueous potassium hydroxide (2 ml) was added, and the admixture was stirred at room temperature for 5 hours. The reaction mixture was partitioned with ethyl acetate/water, and the ethyl acetate layer was washed with brine and then dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation, and the resulting crystals were washed with ether to obtain 77 mg of the title compound (yield: 82%).

reactant | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-acetoxyphenyl)carboxamide | 103 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)OC(C)=O | C26H22N2O6
reactant | potassium hydroxide | 2 ml | [OH-].[K+]
solvent | methanol | 4 ml | CO | CH4O
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-hydroxyphenyl)carboxamide | 77 mg, yield: 82% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)O | C24H20N2O5
